US09193718B2
0.5 mmol of 4-((3-phenyl-isoxazol-5-yl)-methoxy-)-quinazoline was added in 20 mL mixing solution of 5% hydrochloric acid solution and methanol (V:V=1:1), and dissolved by stirring under slightly heating. The mixture was slowly evaporated and crystallized at room temperature to afford 4-((3-phenyl-isoxazol-5-yl)-methoxy-)-quinazoline hydrochloride as a white solid in 68% yield.

reactant | 4-((3-phenyl-isoxazol-5-yl)-methoxy-)-quinazoline | 0.5 mmol | C1(=CC=CC=C1)C1=NOC(=C1)COC1=NC=NC2=CC=CC=C12 | C18H13N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-((3-phenyl-isoxazol-5-yl)-methoxy-)-quinazoline hydrochloride | 68% yield | Cl.C1(=CC=CC=C1)C1=NOC(=C1)COC1=NC=NC2=CC=CC=C12 | InChI=1S/C18H13N3O2.ClH/c1-2-6-13(7-3-1)17-10-14(23-21-17)11-22-18-15-8-4-5-9-16(15)19-12-20-18;/h1-10,12H,11H2;1H
